US08685969B2
7. Ethyl 4-(2-fluorophenyl)-7-methyl-6-(pyrimidin-5-yloxy)-9H-pyrido[3,4-b]indole-1-carboxylate
To a solution of 2-(2-fluorophenyl)-2-(6-methyl-5-(pyrimidin-5-yloxy)-1H-indol-3-yl)ethanamine (0.262 g, 0.724 mmol) and 50% ethyl 2-oxoacetate in toluene (0.316 mL, 1.593 mmol) in 1,4-dioxane (18.10 mL) under nitrogen was added 4 N HCl/1,4-dioxane (0.543 mL, 2.172 mmol). After stirring overnight, the reaction was concentrated in vacuo and dissolved in water. Saturated aqueous NaHCO3 was added until pH ˜12 by litmus paper. The solution was extracted with EtOAc (2×). After separation of the layers, the organic layer was dried over Na2SO4, filtered and concentrated in vacuo to give crude product which was used in subsequent step. This was added to 10% Pd/C (0.770 g, 0.724 mmol) in toluene (10.34 mL), and the reaction was refluxed for 45 min. After cooling to room temperature, the reaction was filtered through a pad of CELITE® and rinsed with EtOAc. The filtrate was concentrated in vacuo to give a residue which was purified by flash chromatography using an ISCO 40 g column eluting with 0-2% MeOH/CH2Cl2. Appropriate fractions were collected and concentrated in vacuo to give the desired product (0.0716 g, 0.162 mmol, 22.4% yield) as a tan solid.

reactant | 2-(2-fluorophenyl)-2-(6-methyl-5-(pyrimidin-5-yloxy)-1H-indol-3-yl)ethanamine | 0.724 mmol, 0.262 g | FC1=C(C=CC=C1)C(CN)C1=CNC2=CC(=C(C=C12)OC=1C=NC=NC1)C | C21H19FN4O
reactant | ethyl 2-oxoacetate | O=CC(=O)OCC | C4H6O3
reactant | HCl 1,4-dioxane | 2.172 mmol, 4 N, 0.543 mL | Cl.O1CCOCC1
solvent | 1,4-dioxane | 18.10 mL | O1CCOCC1 | C4H8O2
solvent | toluene | 10.34 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd/C | 0.724 mmol, 0.770 g | [Pd] | Pd
solvent | toluene | 1.593 mmol, 0.316 mL | C1(=CC=CC=C1)C | C7H8
product | Ethyl 4-(2-fluorophenyl)-7-methyl-6-(pyrimidin-5-yloxy)-9H-pyrido[3,4-b]indole-1-carboxylate | 0.162 mmol, 0.0716 g, 22.4% yield | FC1=C(C=CC=C1)C1=CN=C(C=2NC3=CC(=C(C=C3C21)OC=2C=NC=NC2)C)C(=O)OCC | C25H19FN4O3
